US08497288B2
b) (2R,4S)-4-Hydroxy-1-[4-(2,2,2-trifluoro-ethoxy)-phenylcarbamoyl]-pyrrolidine-2-carboxylic acid methyl ester
To a solution of (2R,4S)-4-Hydroxy-pyrrolidine-2-carboxylic acid methyl ester, hydrochloride (3 g, 16.57 mmol) in THF (15 mL) was added solid Na2CO3 (2.10 g, 19.88 mmol) and stirred for 15 min. To this mixture, freshly prepared 1-Isocyanato-4-(2,2,2-trifluoro-ethoxy)-benzene (4.3 g, 19.88 mmol) in THF (10 mL) was added and stirred for 2 h at room temperature. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was taken up in DCM and washed with water and brine, dried over Na2SO4 and concentrated to dryness. The residue was purified by column chromatography over silica (5% MeOH in DCM) to yield 2.7 g (50%) of the title compound as a white solid. LC-MS: 363.2 [M+1]+.

reactant | (2R,4S)-4-Hydroxy-pyrrolidine-2-carboxylic acid methyl ester, hydrochloride | 16.57 mmol, 3 g | Cl.COC(=O)[C@@H]1NC[C@H](C1)O
reactant | Na2CO3 | 19.88 mmol, 2.10 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-Isocyanato-4-(2,2,2-trifluoro-ethoxy)-benzene | 19.88 mmol, 4.3 g | N(=C=O)C1=CC=C(C=C1)OCC(F)(F)F | C9H6F3NO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2R,4S)-4-Hydroxy-1-[4-(2,2,2-trifluoro-ethoxy)-phenylcarbamoyl]-pyrrolidine-2-carboxylic acid methyl ester | 2.7 g, 50% | COC(=O)[C@@H]1N(C[C@H](C1)O)C(NC1=CC=C(C=C1)OCC(F)(F)F)=O | C15H17F3N2O5
